US08053447B2
4-[4-(1,3,3-Trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenoxy]-cyclohexanecarboxylic acid amide
To a solution of 4-[4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenoxy]-cyclohexanecarboxylic acid (4 g, 10.01 mmol) in DCM (75 mL) was added thionylchloride (1.5 mL) and dry DMF (0.5 mL). The resulting mixture was stirred for 16 hrs at room temperature and the volatiles evaporated in vacuo. The residue was dissolved in DCM (50 mL), added dropwise to an ice cooled solution of conc. aqueous ammoniac (150 mL) and TEA (7 mL) and stirred for 1 hr. The phases were separated and the organic phase dried (Na2SO4), filtered and evaporated which afforded 3.5 g (88%) of the title compound as a solid.

reactant | 4-[4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenoxy]-cyclohexanecarboxylic acid | 10.01 mmol, 4 g | CC12CC(CC(N(C1)C(=O)C1=CC=C(OC3CCC(CC3)C(=O)O)C=C1)C2)(C)C | C24H33NO4
reactant | thionylchloride | 1.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
product | 4-[4-(1,3,3-Trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenoxy]-cyclohexanecarboxylic acid amide | 3.5 g, 88% | CC12CC(CC(N(C1)C(=O)C1=CC=C(OC3CCC(CC3)C(=O)N)C=C1)C2)(C)C | C24H34N2O3
